US04354973
3-[2-(2-Fluorobenzoyl)-4-chlorophenyl]-2-propenenitrile
A solution of 5.0 g (14 mmol) of 5-chloro-2'-fluoro-2-iodobenzophenone, 2 ml (14.3 mmol) of triethylamine, 2 ml (30 mmol) of acrylonitrile and 35 mg (1.5 mmol) of palladium acetate was refluxed under an atmosphere of argon for 16 hr. The mixture was diluted with 100 ml of 1 N hydrochloric acid and the resulting precipitate was collected by filtration. The precipitate was washed with ether and air dried to give an off-white solid, mp 130°-133°.

reactant | 5-chloro-2'-fluoro-2-iodobenzophenone | 14 mmol, 5.0 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)I | C13H7ClFIO
reactant | triethylamine | 14.3 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 30 mmol, 2 ml | C(C=C)#N | C3H3N
solvent | hydrochloric acid | 1 N, 100 ml | Cl | ClH
catalyst | palladium acetate | 1.5 mmol, 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(2-Fluorobenzoyl)-4-chlorophenyl]-2-propenenitrile | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=CC#N)C=CC=C1 | C16H9ClFNO
